US07399759B2
Methyl 4-methylsalicylate (10.7 g, 64 mmol) was dissolved in DMF (100 ml). N,N-Dimethylthiocarbamoyl chloride (8.0 g, 65 mmol) and 1,4-diazabicyclo[2,2,2]octane (7.2 g, 65 mmol) were added thereto with the mixture stirring. The reaction mixture was stirred at room temperature for 20 hrs, poured into water and extracted with ethyl acetate. The extract was washed with water and dried, and the solvent was evaporated under reduced pressure. The residue was subjected to a silica gel column chromatography, eluted with hexane-ethyl acetate (3:1, v/v), recrystallized from ethyl acetate-hexane to give methyl 2-(N,N-dimethylaminothiocarbamoyl)oxy-4-methylbenzoate (9.1 g, 55%) as crystals (mp. 99.9-100.2° C.).

reactant | Methyl 4-methylsalicylate | 64 mmol, 10.7 g | CC=1C=C(C(C(=O)OC)=CC1)O | C9H10O3
reactant | N,N-Dimethylthiocarbamoyl chloride | 65 mmol, 8.0 g | CN(C(=S)Cl)C | C3H6ClNS
reactant | 1,4-diazabicyclo[2,2,2]octane | 65 mmol, 7.2 g | N12CCN(CC1)CC2 | C6H12N2
reactant | water | O | H2O
reactant | DMF | 100 ml | CN(C)C=O | C3H7NO
product | methyl 2-(N,N-dimethylaminothiocarbamoyl)oxy-4-methylbenzoate | 9.1 g, 55% | CNN(C(=S)OC1=C(C(=O)OC)C=CC(=C1)C)NC | C12H17N3O3S
